US07838543B2
4′-Fluoro-biphenyl-4-carboxylic Acid {2-[(1-isopropyl-pyrrolidin-3-ylmethyl)-methyl-amino]-benzothiazol-6-yl}-amide
Place 4′-fluoro-biphenyl-4-carboxylic acid [2-(methyl-pyrrolidin-3-ylmethyl-amino)-benzothiazol-6-yl]-amide (16 mg, 0.035 mmol), 2-iodopropane (0.007 mL, 0.070 mmol), and potassium carbonate (15 mg, 0.108 mmol) in DMF (2 mL) and stir at rt for 3 d. Dilute the reaction with ethyl acetate and wash the organic layer with water (5 times). Chromatograph (silica gel, eluting with 10% 2M NH3 in MeOH:DCM) to yield 16 mg (91%) of the title compound: mass spectrum (ion-spray): (m/z)=503.3 (M+1).

reactant | 4′-fluoro-biphenyl-4-carboxylic acid [2-(methyl-pyrrolidin-3-ylmethyl-amino)-benzothiazol-6-yl]-amide | 0.035 mmol, 16 mg | CN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)CC2CNCC2 | C26H25FN4OS
reactant | 2-iodopropane | 0.070 mmol, 0.007 mL | IC(C)C | C3H7I
reactant | potassium carbonate | 0.108 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4′-Fluoro-biphenyl-4-carboxylic Acid {2-[(1-isopropyl-pyrrolidin-3-ylmethyl)-methyl-amino]-benzothiazol-6-yl}-amide | 16 mg, 91% | C(C)(C)N1CC(CC1)CN(C=1SC2=C(N1)C=CC(=C2)NC(=O)C2=CC=C(C=C2)C2=CC=C(C=C2)F)C | C29H31FN4OS
